US06589977B1
To a solution of 2,3-bis(1H-indol-3-yl)-N-benzylmaleimide (35 mg, 0.084 mmol) in DMF (1 mL) was added a small amount of 10% palladium-carbon, and the whole was stirred at room temperature for 6 hours under hydrogen atmosphere. The palladium-carbon was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography over silica gel (ethyl acetate:n-hexane=2:1) to obtain 3,4-bis(1H-indol-3-yl)-1-benzyl-2,5-dioxopyrrolidine (32.1 mg, 91.3%) as pale red solids.

reactant | 2,3-bis(1H-indol-3-yl)-N-benzylmaleimide | 0.084 mmol, 35 mg | N1C=C(C2=CC=CC=C12)C=1C(=O)N(C(C1C1=CNC2=CC=CC=C12)=O)CC1=CC=CC=C1 | C27H19N3O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | palladium-carbon | [C].[Pd]
product | 3,4-bis(1H-indol-3-yl)-1-benzyl-2,5-dioxopyrrolidine | 32.1 mg, 91.3% | N1C=C(C2=CC=CC=C12)C1C(N(C(C1C1=CNC2=CC=CC=C12)=O)CC1=CC=CC=C1)=O | C27H21N3O2
